US04161538
Ethyl 2-[4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionate
To a solution of 3.95 g of hydroxyiminocyclohexane in 40 ml of tetrahydrofuran was added 45 ml of 15% n-hexane solution of n-butyllithium at room temperature. After the mixture was stirred for 30 minutes at the same temperature, a solution of 9.4 g of ethyl 2-(4-iodomethylphenyl)propionate in 30 ml of tetrahydrofuran was added and stirring was continued for further 1 hour at room temperature. The reaction mixture was poured into a mixture of 100 ml of ice-water and 20 ml of concentrated hydrochloric acid, and extracted with ether. The product thus obtained was purified through a chromatography on a column of silica gel [eluent: ethyl acetate -- methylene chloride (1:3)] to afford 1.0 g of the starting compound recovered and 4.5 g of the desired compound, which by recrystallization from a mixture of ether and n-hexane yielded colorless crystals, m.p. 102°-104° C.

reactant | hydroxyiminocyclohexane | 3.95 g | ON=C1CCCCC1 | C6H11NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | ethyl 2-(4-iodomethylphenyl)propionate | 9.4 g | ICC1=CC=C(C=C1)C(C(=O)OCC)C | C12H15IO2
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | n-hexane | 45 ml | CCCCCC | C6H14
product | Ethyl 2-[4-(2-Hydroxyiminocyclohexan-1-ylmethyl)phenyl]propionate | 1.0 g | ON=C1C(CCCC1)CC1=CC=C(C=C1)C(C(=O)OCC)C | C18H25NO3
